US08865704B2
trans-4-{[2-(2-Nitro-phenyl)-ethylamino]-methyl}-cyclohexanecarboxylic acid methyl ester
A solution of (2-Nitro-phenyl)-acetaldehyde (1 g, 5.98 mmol), trans-4-Aminomethyl cyclohexanecarboxylic acid methyl ester hydrogen chloride salt (1.37 g, 6.58 mmol) and TEA (0.92 mL, 6.58 mmol) in dry DCM was stirred at room temperature for 2.5 h. Sodium triacetoxy borohydride (2.53 g, 11.96 mmol) was added and the mixture stirred at room temperature for 25 min. Then (2N) HCl was added until acidic pH and the aqueous layer extracted with DCM. The organic layer was washed with a saturated solution of NaHCO3 and dried over Na2SO4 anhydrous and then evaporated to afford crude product. Finally, the crude product was purified by flash chromatography on silica (ETP/EtOAc 9/1→0/1) to obtain the titled compound (0.51 g, yield: 27%).

reactant | (2-Nitro-phenyl)-acetaldehyde | 5.98 mmol, 1 g | [N+](=O)([O-])C1=C(C=CC=C1)CC=O | C8H7NO3
reactant | trans-4-Aminomethyl cyclohexanecarboxylic acid methyl ester hydrogen chloride salt | 6.58 mmol, 1.37 g | Cl.COC(=O)[C@@H]1CC[C@H](CC1)CN
reactant | Sodium triacetoxy borohydride | 11.96 mmol, 2.53 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | trans-4-{[2-(2-Nitro-phenyl)-ethylamino]-methyl}-cyclohexanecarboxylic acid methyl ester | 0.51 g, yield: 27% | COC(=O)[C@@H]1CC[C@H](CC1)CNCCC1=C(C=CC=C1)[N+](=O)[O-] | C17H24N2O4
